US07544698B2
Step A: 6-(1H-Indole-2-carbonyl)-octahydro-pyrrolo[3,4-b]pyridine-1-carboxylic acid tert-butyl ester.
To a solution of indole-2-carboxylic acid (67.4 mg, 0.42 mmol) in THF (2.8 mL) was added CDI (68.3 mg, 0.42 mmol) and cis-octahydro-pyrrolo[3,4-b]pyridine-1-carboxylic acid tert-butyl ester (100 mg, 0.44 mmol). After 72 h at rt, the mixture was diluted with satd. aq. NaHCO3 and extracted with CH2Cl2 (3×). The combined organic layers were washed with satd. aq. NaCl, dried (Na2SO4), and concentrated to give a yellow liquid, which was purified by FCC (EtOAc/hexanes) to give a yellow solid (50 mg, 44%). 1H NMR (mixture of rotamers; CDCl3): 7.79-7.72 (m, 1H), 7.72-7.64 (m, 1H), 7.49-7.39 (m, 1H), 7.34-7.29 (m, 1H), 7.25-7.19 (m, 1H), 7.17-7.09 (m, 1H), 6.94-6.89 (m, 1H), 6.89-6.85 (m, 1H), 4.20-3.95 (m, 2H), 3.95-3.86 (m, 0.5H), 3.86-3.69 (m, 2H), 3.69-3.59 (m, 0.5H), 2.91-2.71 (m, 1H), 2.40-2.30 (m, 0.4H), 2.30-2.19 (m, 0.6H), 1.89-1.67 (m, 2H), 1.54-1.42 (m, 9H), 1.41-1.21 (m, 2H).

reactant | indole-2-carboxylic acid | 0.42 mmol, 67.4 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | CDI | 0.42 mmol, 68.3 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cis-octahydro-pyrrolo[3,4-b]pyridine-1-carboxylic acid tert-butyl ester | 0.44 mmol, 100 mg | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CCC1)CNC2 | C12H22N2O2
solvent | THF | 2.8 mL | C1CCOC1 | C4H8O
product | 6-(1H-Indole-2-carbonyl)-octahydro-pyrrolo[3,4-b]pyridine-1-carboxylic acid tert-butyl ester | 50 mg, 44% | C(C)(C)(C)OC(=O)N1C2C(CCC1)CN(C2)C(=O)C=2NC1=CC=CC=C1C2 | C21H27N3O3
